US06826033B2
To an ice-cooled solution of N-[4-[(2S)-3-acetoxy-2-[N-[(2S)-2-acetoxy-3-phenoxypropyl]-N-benzylamino]propyl]-phenyl]benzamide (107 mg) in tetrahydrofuran (1.1 ml) was added sodium hydride (60% in oil, 17 mg), and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added iodomethane (25 μl), and the mixture was stirred at room temperature for 1.5 hours before being partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was dissolved in methanol (1.1 ml)-1,4-dioxane (1.1 ml), then treated with 1N sodium hydroxide (0.5 ml) at room temperature for 1.5 hours. The mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to give N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]-amino]-3-hydroxypropyl]phenyl]-N-methylbenzamide (55 mg) as a white amorphous powder.

reactant | N-[4-[(2S)-3-acetoxy-2-[N-[(2S)-2-acetoxy-3-phenoxypropyl]-N-benzylamino]propyl]-phenyl]benzamide | 107 mg | C(C)(=O)OC[C@H](CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)N(CC1=CC=CC=C1)C[C@@H](COC1=CC=CC=C1)OC(C)=O | C36H38N2O6
reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | iodomethane | 25 μl | IC | CH3I
solvent | tetrahydrofuran | 1.1 ml | O1CCCC1 | C4H8O
product | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]-amino]-3-hydroxypropyl]phenyl]-N-methylbenzamide | 55 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)N(C(C1=CC=CC=C1)=O)C)CO | C33H36N2O4
